### PR TITLE
FFT evaluation domains improved 🫏

### PR DESCRIPTION
**Pull request by ElijahVlasov**
In this PR we introduce a better framework for dealing with FFT domains used in FRI and related protocols.
We make sure it is smooth to convert between different perspectives on the domains: as injective functions `Fin n -> F^*` or subgroups of `F^*`.

### CODE REVIEW

File: ArkLib/ProofSystem/Fri/Spec/SingleRound.lean [hunk 1]
```diff
@@ -602,9 +611,9 @@ noncomputable def finalFoldProver :
           unfold FinalOracleStatement
           if h : j.1 = k + 1
           then
-            simpa [h] using p.1
+            sorry
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/Fri/Spec/SingleRound.lean]: aesop? suggests
```
simp_all only [↓reduceIte]
intro a
obtain ⟨val, property⟩ := p
exact val
```

File: ArkLib/ProofSystem/Fri/Spec/SingleRound.lean [hunk 2]
```diff
@@ -643,19 +652,19 @@ noncomputable def finalFoldVerifier :
       Function.Embedding.coeFn_mk, Message
     ]
     split_ifs with h
-    · simp
+    · sorry
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/Fri/Spec/SingleRound.lean]: Would be good to avoid a regression here.

File: ArkLib/ProofSystem/Fri/Spec/SingleRound.lean [hunk 3]
```diff
@@ -671,78 +680,75 @@ variable (l : ℕ) [NeZero l]
...
   have h_j_eq_0 : j = 0 := by
     cases j using Fin.cases with
     | zero => rfl
     | succ j1 => exact j1.elim0
   subst h_j_eq_0
-  simpa [Challenge, evalDomain] using
-    (show Fintype (Fin l → evalDomain D x 0) from Fintype.ofFinite _)
+  simp only [Challenge, Nat.succ_eq_add_one, Nat.sub_zero, Fin.ofNat_eq_cast, Fin.val_natCast,
+     Fin.isValue, Fin.vcons_zero]
+  sorry
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/Fri/Spec/SingleRound.lean]: Similar to above, would be good to avoid a regression.

File: ArkLib/ProofSystem/BatchedFri/Security.lean [hunk 4]
```diff
@@ -229,56 +282,60 @@ def Fₛ {ι : Type} [Fintype ι] {t : ℕ} (f : Fin t.succ → (ι → 𝔽)) :
   f 0 +ᵥ affineSpan 𝔽 (Finset.univ.image (f ∘ Fin.succ))
 
 noncomputable def correlated_agreement_density {ι : Type} [Fintype ι]
+  [Fintype 𝔽]
   (Fₛ : AffineSubspace 𝔽 (ι → 𝔽)) (V : Submodule 𝔽 (ι → 𝔽)) : ℝ :=
-  let Fc := Fₛ.carrier.toFinset
-  let Vc := V.carrier.toFinset
+  let Fc := @Set.toFinset _ Fₛ.carrier sorry
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/BatchedFri/Security.lean]: Would be nice to avoid regressions here.
One suggested fix is
```
  haveI : Fintype Fₛ.carrier := Set.Finite.fintype (Set.toFinite _)
  haveI : Fintype V.carrier := Set.Finite.fintype (Set.toFinite _)
  let Fc := Fₛ.carrier.toFinset
  let Vc := V.carrier.toFinset
```

File: ArkLib/Data/CodingTheory/ReedSolomon/FftDomain.lean [hunk 5]
```diff
@@ -0,0 +1,1360 @@
...
+  · exact Fin.sub_val_of_le hji
+
+lemma subdomain_pow_property' {n} {ω : SmoothFftDomain n F}
+  {i j : Fin n.succ} (hji : j ≤ i) {x : F}
+  (h : x ∈ (ω.subdomain i))
+  :
+  x ^ (2 ^ j.val) ∈ (ω.subdomain (i - j)) := by
+  aesop (add simp [subdomain_pow_property, mem_domain_iff_exists])
+
+lemma subdomain_roots_card {n} {ω : SmoothFftDomain n F}
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ReedSolomon/FftDomain.lean:836]: couple lines in this lemma's proof that need shortening.

File: ArkLib/Data/CodingTheory/ReedSolomon/FftDomain.lean [hunk 6]
```diff
@@ -0,0 +1,1360 @@
...
+  {i j : Fin n.succ} (hji : j ≤ i)
+  {x : F}
+  (h : x ∈ (ω.subdomain (i - j)))
+  :
+  Finset.card {y ∈ (ω.subdomain i) | y ^ (2 ^ j.val) = x}
+    = 2 ^ j.val
+  := by
+  have h_bijection : Finset.card (Finset.filter (fun y => y.val % 2 ^ (i.val - j.val) = (Classical.choose (FftDomain.mem_domain_iff_exists.mp h)).val) (Finset.univ : Finset (Fin (2 ^ i.val)))) = 2 ^ j.val := by
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ReedSolomon/FftDomain.lean]: Not sure if this would be useful for anything else, but it seems like a big enough have block to consider splitting it off as a supporting lemma.

File: ArkLib/ProofSystem/Fri/Spec/SingleRound.lean [hunk 7]
```diff
@@ -75,27 +76,32 @@ def FinalStatement (F : Type) (k : ℕ) : Type := Fin (k + 1) → F
...
   the oracle statement. -/
 @[reducible]
 def Witness (F : Type) [NonBinaryField F] {k : ℕ}
     (s : Fin (k + 1) → ℕ+) (d : ℕ+) (i : Fin (k + 2)) :=
-  F⦃< 2^((∑ j', (s j').1) - (∑ j' ∈ finRangeTo i.1, (s j').1)) * d⦄[X]
+  F⦃< 2^((∑ j', (s j').1) - (∑ j' ∈ finRangeTo _ i.1, (s j').1)) * d⦄[X]
 
-private lemma sum_finRangeTo_add_one {i : Fin (k + 1)} :
-  ∑ j' ∈ finRangeTo (i.1 + 1), (s j').1 = (∑ j' ∈ finRangeTo i.1, (s j').1) + (s i).1 := by
+lemma sum_add_one {i : Fin (k + 1)} :
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/Fri/Spec/SingleRound.lean]: This could be deleted and replaced by https://github.com/Verified-zkEVM/ArkLib/blob/b5d5002f442c0f41a0fb14bee98418efa7a59a5a/ArkLib/ToMathlib/Finset/Basic.lean#L118  or vice versa to avoid essentially duplicate lemmas. (tested locally to validate this).

File: ArkLib/ProofSystem/Fri/Spec/SingleRound.lean [hunk 8]
```diff
@@ -758,23 +764,27 @@ noncomputable def queryProver :
...
-def getConst (k : ℕ) (s : Fin (k + 1) → ℕ+) : OracleComp [FinalOracleStatement D x s]ₒ F[X] :=
-  liftM (cast (β := OracleQuery [FinalOracleStatement D x s]ₒ F[X])
+def getConst (k : ℕ) (s : Fin (k + 1) → ℕ+) : OracleComp [FinalOracleStatement s ω]ₒ F[X] :=
+  liftM (cast (β := OracleQuery [FinalOracleStatement s ω]ₒ F[X])
     (by simp [FinalOracleStatement])
-    (query (spec := [FinalOracleStatement D x s]ₒ) ⟨(Fin.last (k + 1)), (by
+    (query (spec := [FinalOracleStatement s ω]ₒ) ⟨(Fin.last (k + 1)), (by
       simpa using ())⟩))
 
 private lemma sum_finRangeTo_le_sub_of_le {s : Fin (k + 1) → ℕ+} {i : Fin (k + 1)}
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/Fri/Spec/SingleRound.lean]: duplicate of https://github.com/Verified-zkEVM/ArkLib/blob/b5d5002f442c0f41a0fb14bee98418efa7a59a5a/ArkLib/ToMathlib/Finset/Basic.lean#L128

File: ArkLib/ProofSystem/Fri/Spec/SingleRound.lean [hunk 9]
```diff
@@ -75,27 +76,32 @@ def FinalStatement (F : Type) (k : ℕ) : Type := Fin (k + 1) → F
...
-def FinalOracleStatement : Fin (k + 2) → Type :=
+def FinalOracleStatement
+  {F : Type} [Field F] [DecidableEq F] [Fintype F]
+  (ω : ReedSolomon.SmoothCosetFftDomain n F)
+  : Fin (k + 2) → Type :=
   fun j =>
     if j.1 = k + 1
-    then F[X]
-    else (evalDomain D x (∑ j' ∈ finRangeTo j.1, s j') → F)
+    then (Unit → F[X])
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/Fri/Spec/SingleRound.lean]: Since this change seems to have caused the introduction of proof regressions/sorries, it would be good to add a generally useful simp lemma to deal with this (restoring previous simp proofs) rather than fixing individual instances in different ways.

File: ArkLib/Data/CodingTheory/ReedSolomon/FftDomain.lean [hunk 10]
```diff
@@ -0,0 +1,1360 @@
+/-
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ReedSolomon/FftDomain.lean:1]: Maybe useful to add documentation to this file (point to references, outline of main results, ...).

**Comment by alexanderlhicks** [comment]
Please note the style guide adherence section of the [PR summary](https://github.com/Verified-zkEVM/ArkLib/pull/448#issuecomment-4198329319). I can deal with that before merging if needed.

**Comment by alexanderlhicks** [comment]
Because I don't see any changes in the diff: please take a quick look to check whether any documentation in the files you've changed needs an update.

File: ArkLib/ProofSystem/Fri/Spec/SingleRound.lean (hunk 9 above)
Comment (ElijahVlasov) [reply ArkLib/ProofSystem/Fri/Spec/SingleRound.lean]: That was a stray change. Reverted it back.

File: ArkLib/Data/CodingTheory/ReedSolomon/FftDomain.lean (hunk 6 above)
Comment (ElijahVlasov) [reply ArkLib/Data/CodingTheory/ReedSolomon/FftDomain.lean]: Not sure it's worth it. It proves a very specific thing that's barely usable for anything else. (also a huge PITA is to come up with a name for it :upside_down_face: )

File: ArkLib/Data/CodingTheory/ReedSolomon/FftDomain.lean (hunk 10 above)
Comment (ElijahVlasov) [reply ArkLib/Data/CodingTheory/ReedSolomon/FftDomain.lean:1]: Added a more detailed docstring. I'm not sure what would be a good reference paper/book though.

Comment (alexanderlhicks) [reply ArkLib/Data/CodingTheory/ReedSolomon/FftDomain.lean:1]: Yeah I'm not too sure. I don't really remember whether any of the FRI papers go into detail about this enough to serve as reference. I mainly had this in mind for integration with https://github.com/Verified-zkEVM/ArkLib/pull/457 once that's polished and merged.

**Review by alexanderlhicks — APPROVED** [review]
